US04478749
A solution of (S)-3-benzyloxycarbonylamino-2-azetidinone (440 mg) in dichloromethane (15 ml) was combined with a solution of borax (1.53 g) in water (10 ml) and cooled in an ice-bath to 0°-5° C. While stirring vigorously, a 5.07% solution of sodium hypochlorite (3.2 ml) was added; after 1 hour another portion (1.6 ml) of hypochlorite solutionwas added and stirring was continued for 1 hour at 0°-5° C. The organic layer was separated and the aqueous solution was extracted with dichloromethane. The combined extracts were dried (sodium sulfate) and solvent was removed in vacuo giving (S)-3-benzyloxycarbonylamino-1-chloroazetidin-2-one as an oil.

reactant | (S)-3-benzyloxycarbonylamino-2-azetidinone | 440 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H]1C(NC1)=O | C11H12N2O3
reactant | sodium hypochlorite | 3.2 ml | Cl[O-].[Na+]
reactant | hypochlorite | 1.6 ml | Cl[O-]
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | water | 10 ml | O | H2O
product | (S)-3-benzyloxycarbonylamino-1-chloroazetidin-2-one | C(C1=CC=CC=C1)OC(=O)N[C@@H]1C(N(C1)Cl)=O | C11H11ClN2O3
